US05571810
n-Butyl lithium (1.6M) in hexane (36 ml) was added dropwise to a stirred solution of 2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene (8.0 g) in tetrahydrofuran (80 ml) at -60° C. The mixture was stirred for 30 minutes, and N,N-dimethylformamide (3.7 ml) was added dropwise over ten minutes to the mixture. The mixture was stirred at -70° to -20° C. for 2 hours. 1N Hydrochloric acid (70 ml) was added dropwise, and the solution was extracted with ethyl acetate. The extract was washed with brine, dried and concentrated. The residual syrup was purified by column chromatography on silica gel eluting with a mixture of toluene and ethyl acetate (9:1). The obtained crystals (4.5 g) were recrystallized from ethyl acetate to give pale yellow crystals of 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-carbaldehyde (3.7 g).

reactant | n-Butyl lithium | 1.6M | C(CCC)[Li]
reactant | 2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene | 8.0 g | FC1=CC=C(C=C1)C=1SC=CC1C1=CC=C(C=C1)S(=O)(=O)C | C17H13FO2S2
reactant | N,N-dimethylformamide | 3.7 ml | CN(C=O)C | C3H7NO
reactant | Hydrochloric acid | 1N, 70 ml | Cl | ClH
solvent | hexane | 36 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-carbaldehyde | 3.7 g | FC1=CC=C(C=C1)C1=C(C=C(S1)C=O)C1=CC=C(C=C1)S(=O)(=O)C | C18H13FO3S2
